US04853399
2-[2'-Difluoromethoxy-4'-chlorophenyl]-2-methyl-4-ethyl-1,3-dioxolane
12.8 parts of 1-(4-chloro-2-difluoromethoxyphenyl)ethan-1-one and 10.4 parts of 1,2-butanediol are heated under reflux for 12 hours in 100 ml of abs. toluene in the presence of 0.2 part of p-toluene-sulfonic acid as catalyst, while removing the water of reaction with a water separator. The reaction mixture is cooled to room temperature and then washed with 2×100 ml of water, dried over sodium sulfate and filtered. The solvent is removed by evaporation and the residual oil is purified by high-vacuum distillation; b.p. 78°-80° C./0.04 mbar.

reactant | 1-(4-chloro-2-difluoromethoxyphenyl)ethan-1-one | ClC1=CC(=C(C=C1)C(C)=O)OC(F)F | C9H7ClF2O2
reactant | 1,2-butanediol | C(C(CC)O)O | C4H10O2
product | 2-[2'-Difluoromethoxy-4'-chlorophenyl]-2-methyl-4-ethyl-1,3-dioxolane | FC(OC1=C(C=CC(=C1)Cl)C1(OCC(O1)CC)C)F | C13H15ClF2O3
